US08669254B2
4-Bromo-6-chloro-3-(2,2,2-trifluoro-ethoxy)-pyridazine
To a suspension of 2.30 g 6-chloro-3-(2,2,2-trifluoro-ethoxy)-pyridazin-4-ylamine in 23 ml dibromomethane was added 5.11 g isoamylnitrite at once and drop wise 4.642 g trimethylbromosilane at ambient temperature (during ca. 10 min). A moderate exotherm reaction was observed and a dark brown solution was obtained. The mixture was stirred at ambient temperature for 18 h. The solvents were evaporated and the residue was purified (3 times) by chromatography on silica gel using a gradient of heptane to dichloromethane to yield 0.70 g the title compound as white crystalline solid. MS (EI): 292 (M+H).

reactant | 6-chloro-3-(2,2,2-trifluoro-ethoxy)-pyridazin-4-ylamine | 2.30 g | ClC1=CC(=C(N=N1)OCC(F)(F)F)N | C6H5ClF3N3O
reactant | isoamylnitrite | 5.11 g | C(CC(C)C)ON=O | C5H11NO2
reactant | trimethylbromosilane | 4.642 g | C[Si](Br)(C)C | C3H9BrSi
solvent | dibromomethane | 23 ml | BrCBr | CH2Br2
product | 4-Bromo-6-chloro-3-(2,2,2-trifluoro-ethoxy)-pyridazine | 0.70 g | BrC1=C(N=NC(=C1)Cl)OCC(F)(F)F | C6H3BrClF3N2O
